US06528653B2
Ethyl 2-amino-5-carbamoylthiophene-3-acetate (500 mg, 2.19 mmol) was dissolved in dry dichloromethane (20 ml) and treated at 0° C. with trimethyl-aluminium (2M in heptane, 3.5 ml, 7.22 mmol). The reaction mixture was allowed to warm slowly to room temperature over 3 hours, cooled to 0° C. and quenched with saturated aqueous ammonium chloride solution. The solution was extracted with ethyl acetate, the organic phase was dried over magnesium sulfate, evaporated to dryness and the residue chromatographed on silica gel using ethyl acetate as eluent to give 210 mg of 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide as a pale grey solid. MS(ES): m/e 183 [M+H].

reactant | Ethyl 2-amino-5-carbamoylthiophene-3-acetate | 2.19 mmol, 500 mg | NC=1SC(=CC1CC(=O)OCC)C(N)=O | C9H12N2O3S
reactant | trimethyl-aluminium | 7.22 mmol, 2M, 3.5 ml | C[Al](C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide | 210 mg | O=C1CC2=C(N1)SC(=C2)C(=O)N | C7H6N2O2S
